US06861440B2
To a solution of 2-(3-fluoro-4-methyl-phenyl)-5-methyl-4-(2-methyl-2-nitro-propyl)-1H-imidazole (1.6 g) in acetic acid (32 ml) was added in 2 equal portions of Zn dust (5.2 g) in 15 minutes at 20-25° C. The slightly exothermic reaction was stirred at RT for 1.5 h, the inorganic salts filtered off, and washed with acetic acid. The filtrate was concentrated almost to dryness, the residue quenched with cold conc. NaOH and brine, and extracted with ethyl acetate. The organic phase was washed with brine, dried over magnesium sulphate and evaporated to dryness to obtain 2-[2-(3-fluoro-4-methyl-phenyl)-5-methyl-1H-imidazol-4-yl]-1,1-dimethyl-ethylamine (1.16 g) as a light yellow foam, pure enough to be used in the next step.

reactant | 2-(3-fluoro-4-methyl-phenyl)-5-methyl-4-(2-methyl-2-nitro-propyl)-1H-imidazole | 1.6 g | FC=1C=C(C=CC1C)C=1NC(=C(N1)CC(C)([N+](=O)[O-])C)C | C15H18FN3O2
solvent | acetic acid | 32 ml | C(C)(=O)O | C2H4O2
catalyst | Zn | 5.2 g | [Zn] | Zn
product | 2-[2-(3-fluoro-4-methyl-phenyl)-5-methyl-1H-imidazol-4-yl]-1,1-dimethyl-ethylamine | 1.16 g | FC=1C=C(C=CC1C)C=1NC(=C(N1)CC(C)(C)N)C | C15H20FN3
